US06043269
(+,-) cis 7-Benzyloxy 4-[4-(2-dibutylaminoethyloxy)-phenyl]-3-phenyl-chroman
(+,-) cis 7-Benzyloxy-4-[4-(2-chloroethyloxy)-phenyl]-3-phenyl-chroman (235 mg, 0.5 mmol), N,N-dibutylamine (323 mg, 2.5 mmol), potassium carbonate (138 mg, 1 mmol) and potassium iodide (16 mg, 0.1 mmol) in dimethylformamide (5 ml) was stirred at 60° C. for 2 weeks. The reaction mixture was cooled and ether and water was added. The aqueous phase was extracted with ether, and the combined organic phases were washed with water and brine, dried (magnesium sulphate), and evaporated. The product was isolated by silica column chromatography using methanol-methylenechloride (1+19) as eluent.

reactant | (+,-) cis 7-Benzyloxy-4-[4-(2-chloroethyloxy)-phenyl]-3-phenyl-chroman | 0.5 mmol, 235 mg | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCl | C30H27ClO3
reactant | N,N-dibutylamine | 2.5 mmol, 323 mg | C(CCC)NCCCC | C8H19N
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 mmol, 16 mg | [I-].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methanol methylenechloride | CO.C(Cl)Cl
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (+,-) cis 7-Benzyloxy 4-[4-(2-dibutylaminoethyloxy)-phenyl]-3-phenyl-chroman | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN(CCCC)CCCC | C38H45NO3
